US05712300
Preparation of N-Hydroxy-α-[2-[[(4-methylphenyl)sulfonyl]amino]ethyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide
A mixture of N-benzyloxy-α-[2-[[(4-methylphenyl)sulfonyl]amino]ethyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide (133 mg, 0.220 mmol), MeOH (8.0 mL), and Pearlman's cat (25 mg) is hydrogenated (1 atm) for 8 h at room temperature. The mixture is filtered, the solids washed with MeOH (2×5 mL), CH2Cl2 (5 mL), and MeOH (5 mL). The combined filtrates are concentrated and the residue crystallized from EtOAc/hexane to give 84 mg (74%) of the title compound as a white solid (mp 166.5°-167° C.):

reactant | N-benzyloxy-α-[2-[[(4-methylphenyl)sulfonyl]amino]ethyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide | 0.220 mmol, 133 mg | C(C1=CC=CC=C1)ONC(C(C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C)CCNS(=O)(=O)C1=CC=C(C=C1)C)=O | C34H43N3O5S
solvent | MeOH | 8.0 mL | CO | CH4O
product | N-Hydroxy-α-[2-[[(4-methylphenyl)sulfonyl]amino]ethyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide | 84 mg, 74% | ONC(C(C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C)CCNS(=O)(=O)C1=CC=C(C=C1)C)=O | C27H37N3O5S
